US09328279B2
2,3-Dihydroxypropyloctyldimethylammonium chloride:
In a 2 L reactor system 358.81 g of 3-chloro-1,2-dihydroxypropane (99.3%, 3.22 moles) is added to 734.20 g distilled water. The solution is heated to 30° C. and 496.29 g dimethyloctylamine (98.5%, 3.11 moles) is added over 60 minutes while the reaction solution is being mixed with a mechanical stirrer. The pH is 8.9 and 3.83 g sodium hydroxide (50%) is added to increase the pH to 9.9. The reaction solution is mixed for one hour and then the temperature is increased to 50° C. After another hour the reaction solution is a “milky white” and the pH is 8.3. 19.6 g sodium hydroxide (50%) is added to increase the pH to 9.5. After four additional hours of mixing at 50° C. the pH is 11.7; 11.97 g concentrated hydrochloric acid is added to decrease the pH to 9.0. Thirty minutes later 3.30 g of concentrated hydrochloric acid is added to decrease the pH to 8.9. The solution is allowed to stir for 16 hours at 50° C. The reaction solution pH is 10.7 and 2.58 g concentrated hydrochloric acid is added to reduce the pH to 8.0. The temperature is reduced to 20° C. and 24.23 g trimethylamine (43.6%) is added and allowed to mix at room temperature for five hours. The temperature is increased to 40° C. and the pH is increased to 9.5 and the reaction solution is purged with nitrogen overnight. The solution is pH adjusted to 6.5 with concentrated hydrochloric acid. The isolated product has the following structure:

reactant | 3-chloro-1,2-dihydroxypropane | 3.22 moles, 358.81 g | ClCC(CO)O | C3H7ClO2
reactant | dimethyloctylamine | 3.11 moles, 496.29 g | CN(CCCCCCCC)C | C10H23N
reactant | sodium hydroxide | 3.83 g | [OH-].[Na+]
reactant | sodium hydroxide | 19.6 g | [OH-].[Na+]
reactant | hydrochloric acid | 11.97 g | Cl | ClH
reactant | hydrochloric acid | 3.30 g | Cl | ClH
reactant | hydrochloric acid | 2.58 g | Cl | ClH
reactant | trimethylamine | 24.23 g | CN(C)C | C3H9N
product | 2,3-Dihydroxypropyloctyldimethylammonium chloride | [Cl-].OC(C[N+](C)(C)CCCCCCCC)CO | InChI=1S/C13H30NO2.ClH/c1-4-5-6-7-8-9-10-14(2,3)11-13(16)12-15;/h13,15-16H,4-12H2,1-3H3;1H/q+1;/p-1
